US05185349
Preparation of N-[2,6-bis(1-methylethyl)phenyl]-1-methyl-2-oxo-5-(3-pyridinyl)-3-pyrrolidinylcarboxamide
The title compound was prepared from (-)-cotinine (5.0 g, 0.028 mol), 2,6-diisopropylphenyl isocyanate (5.69 g, 0.028 mol) and lithium diisopropylamide (0.028 mol) using the procedure described in Example 1.

reactant | (-)-cotinine | 0.028 mol, 5.0 g | CN1[C@@H](CCC1=O)C2=CN=CC=C2 | C10H12N2O
reactant | 2,6-diisopropylphenyl isocyanate | 0.028 mol, 5.69 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
reactant | lithium diisopropylamide | 0.028 mol | C(C)(C)[N-]C(C)C.[Li+]
product | N-[2,6-bis(1-methylethyl)phenyl]-1-methyl-2-oxo-5-(3-pyridinyl)-3-pyrrolidinylcarboxamide | CC(C)C1=C(C(=CC=C1)C(C)C)NC(=O)C1C(N(C(C1)C=1C=NC=CC1)C)=O | C23H29N3O2
